US05508272
a) N-[(Phenylmethoxy)carbonyl]-L-homoserine
N-(Benzyloxycarbonyloxy)succinimide (23.57 g., 94.58 mmol.) was added to a solution of L-homoserine (10.24 g., 85.98 mmol.) and sodium bicarbonate (7.95 g., 94.58 mmol., 1.1 eq.) in a mixture of water (100 ml.) and acetone (100 ml.). The mixture was stirred at room temperature overnight. The acetone was removed under reduced pressure (rotovap) and the aqueous solution was washed with methylene chloride (2×75 ml.). The aqueous layer was then acidified to pH 2 by addition of 6N hydrochloric acid and extracted with ethyl acetate (2×250 ml.). The combined ethyl acetate layers were washed with water (2×100 ml.) and brine, dried over sodium sulfate, filtered, concentrated and dried in vacuo to afford 19.54 g. of title product as a white solid. TLC (ethyl acetate:n-butanol:acetic acid:water; 2:1:1:1) Rf =0.74

reactant | N-(Benzyloxycarbonyloxy)succinimide | 94.58 mmol, 23.57 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | L-homoserine | 85.98 mmol, 10.24 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | sodium bicarbonate | 94.58 mmol, 7.95 g, 1.1 eq. | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-[(Phenylmethoxy)carbonyl]-L-homoserine | C1(=CC=CC=C1)COC(=O)N[C@@H](CCO)C(=O)O | C12H15NO5
